US05891889
Step C: trans-4-(3-Methylphenyl)-3 hydroxypiperidine hydrochloride.
To a solution of trans -N-t-butoxycarbonyl-4-(3-methylphenyl)-3 hydroxypiperidine, (0.20 g, 0.12 mmol) in EtOAc (50 ml) at 0° C. was bubbled HCl gas until saturated. The reaction was stirred at 0° C. for 10 min and then the solvent evaporated in vacuo to afford the product as a white foam.

reactant | trans -N-t-butoxycarbonyl-4-(3-methylphenyl)-3 hydroxypiperidine | 0.12 mmol, 0.20 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)C1=CC(=CC=C1)C)O | C17H25NO3
reactant | HCl | Cl | ClH
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
product | trans-4-(3-Methylphenyl)-3 hydroxypiperidine hydrochloride | Cl.CC=1C=C(C=CC1)[C@H]1[C@@H](CNCC1)O | InChI=1S/C12H17NO.ClH/c1-9-3-2-4-10(7-9)11-5-6-13-8-12(11)14;/h2-4,7,11-14H,5-6,8H2,1H3;1H/t11-,12+;/m0./s1
